US05707997
An acetonitrile solution (10 ml) containing 5.0 g of methyl 2-methyl-l,3-dioxolane-2-propionate was added dropwise to 10 ml of a DMF suspension containing 2.3 g of 60% sodium hydride, and stirred at room temperature for 4 hours. The reaction mixture was poured into ice water, acidified with a saturated citric acid solution and extracted with ethyl acetate. The organic layer was washed with water and a saturated saline solution and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: n-hexane:ethyl acetate=3:2) to provide 3.0 g of 2-methyl-β-oxo-1,3-dioxolane-2-pentanenitrile as oil.

reactant | acetonitrile | 10 ml | C(C)#N | C2H3N
reactant | methyl 2-methyl-l,3-dioxolane-2-propionate | 5.0 g | CC1(OCCO1)CCC(=O)OC | C8H14O4
reactant | sodium hydride | 2.3 g | [H-].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 2-methyl-β-oxo-1,3-dioxolane-2-pentanenitrile | 3.0 g | CC1(OCCO1)CCC(CC#N)=O | C9H13NO3
